US08211924B2
Preparation of 1-(4,5,4′,5′-tetrahydro-[2,3]-bithiazolyl-2′-ylidene)amino-1-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-(3,5-dimethyl-phenyl)-ethane (compound 3)
A solution of 1-amino-1-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-(3,5-dimethylphenyl)-ethane (0.39 g) in diethyl ether was treated at 0° C. with 2-chloroethyl isothiocyanate (0.16 g) and stirring was continued for 5 h at this temperature. The mixture was quenched with an aqueous sodium hydroxide solution (1 M, 4 ml) and water (15 ml) and stirred for 15 minutes. The organic phase was washed with water, the aqueous phase was extracted with diethyl ether, the combined organic phases were dried over sodium sulphate and the solvent was removed in vacuo. The remainder was purified by column chromatography to yield 0.1 g of the title compound.

reactant | 1-amino-1-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-(3,5-dimethylphenyl)-ethane | 0.39 g | NC(CC1=CC(=CC(=C1)C)C)C1=CC=CC=2OC(OC21)(F)F | C17H17F2NO2
reactant | 2-chloroethyl isothiocyanate | 0.16 g | ClCCN=C=S | C3H4ClNS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4,5,4′,5′-tetrahydro-[2,3]-bithiazolyl-2′-ylidene)amino-1-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-2-(3,5-dimethyl-phenyl)-ethane | 0.1 g | S1C(=NCC1)N1C(SCC1)=NC(CC1=CC(=CC(=C1)C)C)C1=CC=CC=2OC(OC21)(F)F | C23H23F2N3O2S2
